US05837704
(1-(t-Butoxycarbonyl)pyrrol-2-yl)tributyltin LDA in dry THF (1.2M, 0.83 mL) was slowly added to a cooled (-78° C.) solution of 1-(t-butoxycarbonyl)pyrrole (0.67 g) in dry THF (5 mL). After stirring for 3 h, tributyltin chloride (0.65 g) was slowly added, and the mixture was allowed to warm to room temperature overnight. The solvent was removed to provide (1-(t-butoxycarbonyl)pyrrol-2-yl)tributyltin, suitable for use in the next reaction.

reactant | (1-(t-Butoxycarbonyl)pyrrol-2-yl)tributyltin LDA | C(C)(C)(C)OC(=O)N1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC.[Li+].CC(C)[N-]C(C)C
reactant | 1-(t-butoxycarbonyl)pyrrole | 0.67 g | C(C)(C)(C)OC(=O)N1C=CC=C1 | C9H13NO2
reactant | tributyltin chloride | 0.65 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 1.2M, 0.83 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1-(t-butoxycarbonyl)pyrrol-2-yl)tributyltin | C(C)(C)(C)OC(=O)N1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H12NO2.3C4H9.Sn/c1-9(2,3)12-8(11)10-6-4-5-7-10;3*1-3-4-2;/h4-6H,1-3H3;3*1,3-4H2,2H3;
